US08686184B2
2-[3-((1R,2R)-1-Benzyl-2-butoxycarbonyl-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic Acid (R1═—O(CH2)3CH3)
(2R,3R)-3-t-Butoxycarbonylamino-2-hydroxy-4-phenyl-butyric acid (244 mg, 827 μmol, 1.0 eq.) and 1-butanol (4 mL) were combined in 4 M HCl in 1,4-dioxane (1 mL), and stirred for 2 hours at 60° C. The solvent was evaporated and the reaction mixture was azeotroped with toluene. 2-(3-Carboxy-propyl)benzoic acid (160 mg, 790 μmol, 1.0 eq.), DIPEA (439 μL, 3.2 eq.), and HATU (300 mg, 788 μmol, 1.0 eq.) were combined in DCM (20 mL) and stirred for 5 minutes at room temperature. This mixture was then added to the azeotroped mixture and stirred for 1 hour. The solvent was evaporated and the crude material was dissolved in AcOH (2 mL) and purified using preparative HPLC to yield the title compound (80 mg, 99% purity). MS m/z [M+H]+ calc'd for C25H31NO6, 442.22. found 442.2.

reactant | (2R,3R)-3-t-Butoxycarbonylamino-2-hydroxy-4-phenyl-butyric acid | 827 μmol, 244 mg, 1.0 eq. | C(C)(C)(C)OC(=O)N[C@@H]([C@H](C(=O)O)O)CC1=CC=CC=C1 | C15H21NO5
reactant | 2-(3-Carboxy-propyl)benzoic acid | 790 μmol, 160 mg, 1.0 eq. | C(=O)(O)CCCC1=C(C(=O)O)C=CC=C1 | C11H12O4
reactant | DIPEA | 439 μL, 3.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 788 μmol, 300 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | 1-butanol | 4 mL | C(CCC)O | C4H10O
product | 2-[3-((1R,2R)-1-Benzyl-2-butoxycarbonyl-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic Acid | 80 mg, 99% | C(C1=CC=CC=C1)[C@H]([C@@H](O)C(=O)OCCCC)NC(=O)CCCC1=C(C(=O)O)C=CC=C1 | C25H31NO6
